US05610293
F. Synthesis of 1,5,9,13-Tetraazacyclohexadecane
A mixture of 1,5,9,13-tetra(p-toluenesulfonyl)-1,5,9,13-tetraazacyclohexadecane prepared as in Example 10E (33.7 g, 0.0399 mole) and concentrated H2SO4 (100 ml) was heated at 100° C. with stirring under a dry argon atmosphere for 72 h. To the resulting brown solution, ethanol (200 mL) was added dropwise with stirring at 0° C., followed by ethyl ether (500 ml). The tan solid was filtered and washed thoroughly with ethyl ether. The solid was then dissolved in H2O (50 ml), the pH was adjusted to 11 with solid NaOH, and the solvent was removed in vacuo. The resulting brown oily solid was extracted with hot THF (4×100 ml) and the extracts were filtered. The filtrates were combined and filtered to remove cloudiness. The solvent was removed in vacuo and the crude product was purified by recrystallization from CHCl3 -ethyl ether to give 4.29 g (47% yield) of the product as colorless prisms: mp 84°-6° C.; 1H NMR (CDCl3) δ1.54 (br s, 4 H), 1.70 (quint, J=6.0 Hz,8 H), 2.72 (t, J=6.1 Hz, 16 H); Exact mass (M+H)+ : calcd., 229.2391; Found, 229.2417 (C12H29N4).

reactant | 1,5,9,13-tetra(p-toluenesulfonyl)-1,5,9,13-tetraazacyclohexadecane | C1(=CC=C(C=C1)S(=O)(=O)N1CCCN(CCCN(CCCN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C40H52N4O8S4
reactant | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
product | 1,5,9,13-Tetraazacyclohexadecane | 4.29 g, 47% yield | N1CCCNCCCNCCCNCCC1 | C12H28N4
